US07691882B2
1-Benzyloxy-4-((E)-2-nitro-vinyl)-benzene
To a mixture of 4-benzyloxybenzaldehyde (1.0 g, 4.7 mmol) and sodium methoxide (28% methanol solution, 150 μL, 0.74 mmol) and methanol (10 mL) were added nitromethane (330 μL, 6.1 mmol) and sodium methoxide (28% methanol solution, 1.0 mL, 4.9 mmol) at 0° C., which was stirred for 10 minutes at room temperature. The reaction mixture was cooled to 0° C., and 5 N aqueous hydrochloric acid solution (20 mL) was added thereto at the same temperature. The reaction mixture was then stirred for 15 minutes at room temperature. The precipitated solids were filtered to obtain the title compound (1.2 g, 100%).

reactant | 4-benzyloxybenzaldehyde | 4.7 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | sodium methoxide | 0.74 mmol, 150 μL | C[O-].[Na+]
reactant | nitromethane | 6.1 mmol, 330 μL | [N+](=O)([O-])C | CH3NO2
reactant | sodium methoxide | 4.9 mmol, 1.0 mL | C[O-].[Na+]
reactant | hydrochloric acid | 5 N, 20 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 1-Benzyloxy-4-((E)-2-nitro-vinyl)-benzene | 1.2 g, 100% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H13NO3
